* R:\repos\auxpis-bps\ltspice\schematics\proto_buck.asc
V1 N001 0 12 Rser=2.4
C1 N002 N003 9400µ
M1 N003 N004 0 0 IRL3915
V2 N004 0 PULSE(0 5 0 0 0 0.0001 .001)
R1 N002 N003 20
L1 N001 N002 66µ
D1 N003 N001 D
.model D D
.lib D:\User\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib D:\User\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 10 0
.backanno
.end
